US07268230B2
A stirred solution of 7-(2-bromoethoxy)-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (250 mg, 0.56 mmol), (prepared as described for the starting material in Example 17), in DMF (2.5 ml) was treated with N-methylpropargylamine (116 mg, 1.68 mmol) and stirred at ambient temperature overnight. The solvent was evaporated under vacuum and the residue purified by column chromatography eluting with methylene chloride/methanol (saturated with ammonia) (92/8). The relevant fractions were combined and evaporated under vacuum to give 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-{2-[N-methyl-N-(2-propynyl)amino]ethoxy}quinazoline as a white solid. (165 mg, 68%).

reactant | 7-(2-bromoethoxy)-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 0.56 mmol, 250 mg | BrCCOC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C20H17BrFN3O3
reactant | N-methylpropargylamine | 1.68 mmol, 116 mg | CNCC#C | C4H7N
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-{2-[N-methyl-N-(2-propynyl)amino]ethoxy}quinazoline | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCN(CC#C)C)C | C24H23FN4O3
